US04988689
A mixture of 0.9 parts of isocyanatomethane, 5.3 parts of N-[1-(2-amino-ethyl)-3-pyrrolidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine and 63 parts of tetrahydrofuran was stirred for 1.5 hour at room temperature using a CaCl2 -tube. Another portion of 0.9 parts of isocyanatomethane was added and stirring was continued for 1.5 hour at room temperature. The precipitated product was filtered off, washed with tetrahydrofuran and dried in vacuo at room temperature, yielding 5.0 parts (81%) of N-[2-[3-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-pyrrolidinyl]ethyl]-N'-methylurea; mp. 161.1° C. (compound 188).

reactant | isocyanatomethane | N(=C=O)C | C2H3NO
reactant | N-[1-(2-amino-ethyl)-3-pyrrolidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine | NCCN1CC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C20H24FN5
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[2-[3-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-pyrrolidinyl]ethyl]-N'-methylurea | 81% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CN(CC2)CCNC(=O)NC | C22H27FN6O
